US06908947B2
A solution of 10.0 g (62 mmol) of 3,4-dihydro-1-benzoxepin-5(2H)-one (J. Chem. Soc., Perkin Trans. 1 (1991), 2763) and 4.63 g (68 mmol) of hydroxylamine hydrochloride in 45 ml of ethanol and 45 ml of pyridine was heated under reflux for 5 h. After distilling off the solvents on a rotary evaporator, the residue was treated with water, adjusted to pH 2 with dil hydrochloric acid and stirred for 3 h. After filtering off the precipitated product with suction and drying it, 10.2 g of 3,4-dihydro-1-benzoxepin-5(2H)-one oxime were obtained, m.p. 96-98° C. b) A solution of 2.0 g (11.3 mmol) of 3,4-dihydro-1-benzoxepin-5(2H)-one oxime in 15 ml of 1,2-dimethoxyethane (DME) was added dropwise at 0° C. under argon to a mixture of 4.5 g (23.7 mmol) of titanium tetrachloride and 1.79 g (47.4 mmol) of sodium borohydride in 50 ml of DME over the course of 20 min. After stirring at RT for 2 days, 100 ml of water were added dropwise and the mixture was rendered alkaline using conc. ammonia solution. After filtering off the precipitate with suction, the filtrate was extracted three times with EA. After washing with sodium chloride solution, drying over magnesium sulfate and concentrating, 2.1 g of 5-amino-2,3,4,5-tetrahydro-1-benzoxepine were obtained. c) 0.86 g (6.7 mmol) of ethanesulfonyl chloride was added dropwise with ice cooling to a solution of 1.0 g (6.1 mmol) of 5-amino-2,3,4,5-tetrahydro-1-benzoxepine and 2.5 g (24 mmol) of triethylamine in 20 ml of THF. The mixture was allowed to come to room temperature and was stirred overnight, and the solvent was distilled off in vacuo. After stirring the residue with water, the deposited product was filtered off with suction. 1.1 g of 5-ethylsulfonylamino-2,3,4,5-tetrahydro-1-berzoxepine were obtained, m.p. 109-111° C. d) A solution of 1.0 g (3.9 mmol) of 5-ethylsulfonylamino-2,3,4,5-tetrahydro-1-benzoxepine in 15 ml of THF were added dropwise under nitrogen to a suspension of 0.16 g (5.4 mmol) of 80 percent sodium hydride in 10 ml of THF. After stirring at RT for 3 h, 1.6 g (11 mmol) of methyl iodide were added dropwise and the mixture was additionally stirred overnight at RT. After distilling off the solvent, the residue was treated with water and extracted with EA. The organic phase was concentrated in vacuo after drying over sodium sulfate. 1.0 g of 5-(N-ethylsulfonyl-N-methylamino)-2,3,4,5-tetrahydro-1-benzoxepine was obtained, m.p. 122-124° C.

reactant | ethanesulfonyl chloride | 6.7 mmol, 0.86 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | 5-amino-2,3,4,5-tetrahydro-1-benzoxepine | 6.1 mmol, 1.0 g | NC1CCCOC2=C1C=CC=C2 | C10H13NO
reactant | triethylamine | 24 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | 5-ethylsulfonylamino-2,3,4,5-tetrahydro-1-benzoxepine | 3.9 mmol, 1.0 g | C(C)S(=O)(=O)NC1CCCOC2=C1C=CC=C2 | C12H17NO3S
reactant | sodium hydride | 5.4 mmol, 0.16 g | [H-].[Na+]
reactant | methyl iodide | 11 mmol, 1.6 g | CI | CH3I
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-(N-ethylsulfonyl-N-methylamino)-2,3,4,5-tetrahydro-1-benzoxepine | 1.0 g | C(C)S(=O)(=O)N(C)C1CCCOC2=C1C=CC=C2 | C13H19NO3S
